US04863959
4-Amino-3-bromo-2-fluoro-5,α-dimethylbenzyl alcohol
Using the method of Example 19, 4-amino-3-bromo-2-fluoro-5-methylbenzaldehyde is reacted with MeMgBr to afford the title compound.

reactant | 4-amino-3-bromo-2-fluoro-5-methylbenzaldehyde | NC1=C(C(=C(C=O)C=C1C)F)Br | C8H7BrFNO
reactant | MeMgBr | C[Mg+].[Br-]
product | 4-Amino-3-bromo-2-fluoro-5,α-dimethylbenzyl alcohol | NC1=C(C(=C(C(C)O)C=C1C)F)Br | C9H11BrFNO
